US05495019
3-(4-Chlorophenyl)-3-(3,4-dimethoxyphenyl)-acrylic acid morpholide
4-Chloro-3', 4'-dimethoxybenzophenone (276.7 g; 1 mol), N-acetyl morpholine (387.6 g; 3 mol) and powdered sodium hydroxide (40.0 g; 1 mol) in n-octane (600 ml) were refluxed under stirring for 10 hours at a column internal temperature of 127° C. The refluxing condensate (3 l/h) was passed through a column packed with molecular sieves (4 A, 150 g). Subsequently, n-octane (450 ml) was distilled off and toluene (1 l) was added. The mixture was heated to 80° C. and extracted once with 500 ml water and twice with 250 ml water. The organic layer was separated, and dried by azeotropic distillation of a part of the solvent (125 ml) under reduced pressure. On cooling to room temperature, crystallisation already started. Under continuous stirring, 750 ml petroleum ether (bp. 58°-63° C.) was added over a period of 30 minutes. After standing overnight, the crystals were collected by vacuum filtration washed with toluene/petroleum ether (1:3; 400 ml) and dried. Yield: 268 g (69.1%). Mp.: 140°-152° C. The product was 98.1% pure and contained 0.9% of the original ketone. The mother liquor contained an additional 25.2 g of the title compound and 42.2 g of the original ketone. The water washings contained 207 g =1.6 mol N-acetyl morpholine.

reactant | 4-Chloro-3', 4'-dimethoxybenzophenone | 1 mol, 276.7 g | ClC1=CC=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=C1 | C15H13ClO3
reactant | N-acetyl morpholine | 3 mol, 387.6 g | C(C)(=O)N1CCOCC1 | C6H11NO2
reactant | sodium hydroxide | 1 mol, 40.0 g | [OH-].[Na+]
reactant | N-acetyl morpholine | 1.6 mol | C(C)(=O)N1CCOCC1 | C6H11NO2
solvent | n-octane | 600 ml | CCCCCCCC | C8H18
product | 3-(4-Chlorophenyl)-3-(3,4-dimethoxyphenyl)-acrylic acid morpholide | ClC1=CC=C(C=C1)C(=CC(=O)N1CCOCC1)C1=CC(=C(C=C1)OC)OC | C21H22ClNO4
